US05789394
1-t-BUTYLDIPHENYLSILYLOXY-3-MERCAPTO-2-PROPANOL
To a solution of 3-mercapto-1,2-propanediol (5.00 g, 46.23 mmol) and imidazole (3.78 g, 55.47 mmol) in dimethylformamide (30 mL) was added t-butyldiphenylsilyl chloride (12.71 g, 46.23 mmol) at room temperature. After stirring for 18 h the reaction was quenched by the addition of saturated sodium bicarbonate and the mixture was extracted with ether (3×). The combined ether extracts were washed with water (2×), brine, dried and concentrated to give a yellow oil. The crude material was purified by flash chromatography with a mixture of hexanes and ethyl acetate (90:10) to give the compound as a colourless oil (14.12 g) in 88% yield. 1H NMR (300MHz, CDCl3) d: 1.08 (s, 9H, t-butyl), 1.39 (t, 1H, J=9 Hz, SH), 1.95 (bs, 1H, OH), 2.68 (dd, 2H, J=9 Hz, 5.5Hz, H-3), 3.72 (m, 3H, H-1 and H-2), 7.43 and 7.66 (m, 10H, Ar-H).

reactant | 3-mercapto-1,2-propanediol | 46.23 mmol, 5.00 g | SCC(CO)O | C3H8O2S
reactant | imidazole | 55.47 mmol, 3.78 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldiphenylsilyl chloride | 46.23 mmol, 12.71 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-t-BUTYLDIPHENYLSILYLOXY-3-MERCAPTO-2-PROPANOL | 14.12 g, 88% yield | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(CS)O | C19H26O2SSi
